US04897422
N-hydroxy-N-(1-(4-(1-phenylethoxy)phenyl)ethyl)urea was prepared using Scheme 2 by refluxing 1-(4-(1-phenylethoxy)phenyl)ethylhydroxylamine (2.22 g 8.64 mmole) for thirty minutes with trimethylsilylisocyanate (1.19 gr, 10.4 mole) in dioxane (30 ml). The reaction mixture was then washed with saturated NH4Cl solution, dried with MgSO4, and evaporated. The residue was washed with ether to give a white solid (1.3 g).

reactant | 1-(4-(1-phenylethoxy)phenyl)ethylhydroxylamine | 8.64 mmole, 2.22 g | C1(=CC=CC=C1)C(C)OC1=CC=C(C=C1)C(C)NO | C16H19NO2
reactant | trimethylsilylisocyanate | 10.4 mole, 1.19 gr | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N-hydroxy-N-(1-(4-(1-phenylethoxy)phenyl)ethyl)urea | ON(C(=O)N)C(C)C1=CC=C(C=C1)OC(C)C1=CC=CC=C1 | C17H20N2O3
